US08124629B2
To a stirred mixture of cesium carbonate (12.81 g, 39.33 mmol), benzyl mercaptan (4.7 mL, 39 mmol), and N,N,-dimethylformamide (80 mL) was added 4-fluorobenzaldehyde, slowly over several minutes. The reaction mixture was stirred at 40° C. overnight. The reaction mixture was cooled to room temperature, then diluted with water (500 mL). The resulting mixture was acidified to pH 4 using 1 N aqueous HCl, then extracted with ethyl acetate (3×150 mL). The combined organic layers were washed with water and brine, dried over MgSO4, filtered, and concentrated. A solution of the crude product and dichloromethane was concentrated over silica gel, and the resulting silica gel supported crude product was loaded onto an Analogix SuperFlash™ column. Flash chromatography (100% hexanes -15% ethyl acetate in hexanes) afforded 7.70 g (90%) of 4-(benzylsulfanyl)-benzaldehyde as a slightly pink solid.

reactant | cesium carbonate | 39.33 mmol, 12.81 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl mercaptan | 39 mmol, 4.7 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | HCl | 1 N | Cl | ClH
solvent | water | 500 mL | O | H2O
solvent | N,N,-dimethylformamide | 80 mL | CN(C)C=O | C3H7NO
product | 4-(benzylsulfanyl)-benzaldehyde | 7.70 g, 90% | C(C1=CC=CC=C1)SC1=CC=C(C=O)C=C1 | C14H12OS
